US05569653
1-[4-[3-[4-(6-Fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]propoxy]-3-methoxyphenyl]-2-hydroxyethanone
A mixture of 3-(4-piperidinyl)-6-fluoro-1,2-benzisoxazole (1.3 g, 5.8 mmol), 1-[4-(3-chloropropoxy)-3-methoxyphenyl]-2-hydroxyethanone (1.5 g, 5.8 mmol), NaHCO3 (1.5 g) and 1-methyl-2-pyrrolidinone (50 ml) was stirred under N2 at 100° C. for hours. The reaction was poured into H2O, and the aqueous suspension was extracted with EtOAc. The extract was washed (H2O), dried (MgSO4) and concentrated to afford the product.

reactant | 3-(4-piperidinyl)-6-fluoro-1,2-benzisoxazole | 5.8 mmol, 1.3 g | N1CCC(CC1)C1=NOC2=C1C=CC(=C2)F | C12H13FN2O
reactant | 1-[4-(3-chloropropoxy)-3-methoxyphenyl]-2-hydroxyethanone | 5.8 mmol, 1.5 g | ClCCCOC1=C(C=C(C=C1)C(CO)=O)OC | C12H15ClO4
reactant | NaHCO3 | 1.5 g | C(=O)(O)[O-].[Na+]
reactant | 1-methyl-2-pyrrolidinone | 50 ml | CN1C(CCC1)=O | C5H9NO
solvent | H2O | O | H2O
product | 1-[4-[3-[4-(6-Fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]propoxy]-3-methoxyphenyl]-2-hydroxyethanone | FC1=CC2=C(C(=NO2)C2CCN(CC2)CCCOC2=C(C=C(C=C2)C(CO)=O)OC)C=C1 | C24H27FN2O5
